US05849796
5.8 g of 2-bromo-4-fluoro-5-methylsulphonylbenzoic acid are stirred, at room temperature for 12 h, in 20 ml of DMF together with 3.7 ml of methyl iodide and 8.3 g of potassium carbonate. The reaction mixture is then concentrated and 50 ml of water are added to it. The resulting precipitate is filtered off with suction and dried. Methyl 2-bromo-4-fluoro-5-methylsulphonylbenzoate is obtained, m.p. 126°.

reactant | 2-bromo-4-fluoro-5-methylsulphonylbenzoic acid | 5.8 g | BrC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)C | C8H6BrFO4S
reactant | methyl iodide | 3.7 ml | CI | CH3I
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 2-bromo-4-fluoro-5-methylsulphonylbenzoate | BrC1=C(C(=O)OC)C=C(C(=C1)F)S(=O)(=O)C | C9H8BrFO4S
